US07939531B2
A mixture of 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (0.578 g, 0.432 mmol), pyrrole y (0.059 g, 0.39 mmol), cesium carbonate (0.256 g, 0.786 mmol), copper (I) iodide (0.008 g, 0.04 mmol) and proline (0.009 g, 0.08 mmol) in 0.8 mL of dimethylsulfoxide was stirred at 90° C. for 64 h then allowed to cool. The mixture was partitioned between 50 mL of ethyl acetate and 25 mL of water, and the aqueous layer was extracted with 50 mL of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0->3% MeOH/CH2Cl2) afforded 0.066 g (32%) of 1-[2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow oil.

reactant | 1-[2-bromo-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.432 mmol, 0.578 g | BrC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C17H26BrN3O2Si
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | cesium carbonate | 0.786 mmol, 0.256 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | proline | 0.08 mmol, 0.009 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethylsulfoxide | 0.8 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.04 mmol, 0.008 g | [Cu]I
product | 1-[2-[3-(azetidine-1-carbonyl)-pyrrol-1-yl]-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.066 g, 32% | N1(CCC1)C(=O)C1=CN(C=C1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C25H35N5O3Si
